US04343811
2-[3-(4-Chlorobenzyl)-2-methyl-1-propyl-1H-indole-5-yloxy]-2-methyl-propanoic acid ethylester
In accordance with a procedure analogous to that of Example 10, the above compound was prepared from 3-(4-chlorobenzyl)-2-methyl-1-propyl-1H-indole-5-ol and 2-bromo-2-methyl-propanoic acid ethylester.

reactant | 3-(4-chlorobenzyl)-2-methyl-1-propyl-1H-indole-5-ol | ClC1=CC=C(CC2=C(N(C3=CC=C(C=C23)O)CCC)C)C=C1 | C19H20ClNO
reactant | 2-bromo-2-methyl-propanoic acid ethylester | C(C)OC(C(C)(C)Br)=O | C6H11BrO2
product | 2-[3-(4-Chlorobenzyl)-2-methyl-1-propyl-1H-indole-5-yloxy]-2-methyl-propanoic acid ethylester | C(C)OC(C(C)(C)OC=1C=C2C(=C(N(C2=CC1)CCC)C)CC1=CC=C(C=C1)Cl)=O | C25H30ClNO3
